US04943584
While cooling, 5.58 g of 4-phenoxyphenol as a solution in 30 ml of absolute dimethylformamide is dripped into 1 g of 80% strength sodium hydride in 25 ml of absolute dimethylformamide. Upon completion of hydrogen evolution, 4.76 g of 5-chloromethyl-3-cyclopropyl-1,2,4-oxadiazole is dripped in and the mixture is stirred for 8 hours at 80° C. After the solvent has been removed, the residue is slurried in 250 ml of water, extracted three times, each time with 100 ml of ether, and the combined ethe phases are dried over sodium sulfate. After removal of the solvent under reduced pressure and recrystallization of the crude product from methanol/water (1:1) there is obtained 8.0 g of 3-cyclopropyl-5-[(4-phenoxyphenoxy)-methyl]-1,2,4-oxadiazole; m.p.: 99° C.

reactant | 4-phenoxyphenol | 5.58 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-chloromethyl-3-cyclopropyl-1,2,4-oxadiazole | 4.76 g | ClCC1=NC(=NO1)C1CC1 | C6H7ClN2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-cyclopropyl-5-[(4-phenoxyphenoxy)-methyl]-1,2,4-oxadiazole | 8.0 g | C1(CC1)C1=NOC(=N1)COC1=CC=C(C=C1)OC1=CC=CC=C1 | C18H16N2O3
